US04766253
3,4'-Dichlorodiphenyl ether
80 g (1 mol) of 50% sodium hydroxide are added to a solution of 128.1 g (1 mol) of 3-chlorophenol in 1325 g (9 mol) of 1,4-dichlorobenzene and 27 g (0.3 mol) of dimethylacetamide.

reactant | sodium hydroxide | 1 mol, 80 g | [OH-].[Na+]
reactant | 3-chlorophenol | 1 mol, 128.1 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 1,4-dichlorobenzene | 9 mol, 1325 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | dimethylacetamide | 0.3 mol, 27 g | CC(=O)N(C)C | C4H9NO
product | 3,4'-Dichlorodiphenyl ether | C1=CC(=CC(=C1)Cl)OC2=CC=C(C=C2)Cl | C12H8Cl2O
